US06770761B2
Preparation of (±)2-amino-6-propylamino-4,5,6,7-tetrahydrobenzothiazole [Compound (1), R=hydrogen, R1=propyl, R2=hydrogen]
3.0 g of propylamine hydrochloride was dissolved in 60 mL of methanol and 2.2 g of 2-amino-oxo-4,5,6,7-tetrahydrobenzothiazole was added. 1.1 mL of propylamine was poured into the mixture to set pH within the range 6.5-7.0. Then 0.7 g of sodium cyanoborohydride was added and the reaction mixture was stirred for 70 hours under nitrogen atmosphere and at ambient temperature. The reaction mixture was diluted with 50 mL of water and 10 mL of conc. hydrochloric acid. Solvents were removed by evaporation, the yellow residue was stirred with ethanol and the solid was removed by filtration. The filtrate was made alkaline with potassium hydroxide solution and the precipitate was again removed by filtration. Filtrate was several times evaporated with ethanol to remove propylamine. The residue was dissolved in hot ethanol and resulting crystals were collected and dried. Reaction product was characterised by NMR spectra.

reactant | propylamine hydrochloride | 3.0 g | Cl.C(CC)N
reactant | 2-amino-oxo-4,5,6,7-tetrahydrobenzothiazole | 2.2 g | NC=1SC2=C(N1)C(CCC2)=O | C7H8N2OS
reactant | propylamine | 1.1 mL | C(CC)N | C3H9N
reactant | sodium cyanoborohydride | 0.7 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | (±)2-amino-6-propylamino-4,5,6,7-tetrahydrobenzothiazole | NC=1SC2=C(N1)CCC(C2)NCCC | C10H17N3S
